US08217064B2
A mixture of ethyl 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylate (400 mg, 0.78 mmol) and lithium hydroxide monohydrate (0.188 g, 7.8 mmol) in a MeOH/THF/Water solvent mixture (5 ml/5 ml5/ml) was stirred for 3 h at room temperature. After completion of reaction volatiles were removed under reduced pressure. Residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). Combined organic layer was washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylic acid (100 mg). 1H-NMR (CDCl3, 400 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.56 (s, 1H); 7.34 (s, 1H); 3.98 (q, 2H); 3.61 (t, 2H); 2.53 (dd, 2H); 1.99 (m, 2H).

reactant | ethyl 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylate | 0.78 mmol, 400 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCOCC1)C(=O)OCC | C23H21ClF6O4
reactant | lithium hydroxide monohydrate | 7.8 mmol, 0.188 g | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylic acid | 100 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCOCC1)C(=O)O | C21H17ClF6O4
